US05332757
Using an analogous procedure to that described in Example 68, 4'-[3-(2,4-dimethyl-1,3-dioxolan-4-yl)phenylthio]acetophenone was reacted with hydroxylamine hydrochloride to give 4'-[3-(2,4-dimethyl-1,3-dioxolan-4-yl)phenylthio]acetophenone oxime in 82% yield as a gum.

reactant | 4'-[3-(2,4-dimethyl-1,3-dioxolan-4-yl)phenylthio]acetophenone | CC1OCC(O1)(C)C=1C=C(C=CC1)SC1=CC=C(C=C1)C(C)=O | C19H20O3S
reactant | hydroxylamine hydrochloride | Cl.NO
product | 4'-[3-(2,4-dimethyl-1,3-dioxolan-4-yl)phenylthio]acetophenone oxime | 82% yield | CC1OCC(O1)(C)C=1C=C(C=CC1)SC1=CC=C(C=C1)C(C)=NO | C19H21NO3S
